US09290496B2
Step 3: Preparation of (+/−)-cis-2,5-dibenzyl-3a-fluorotetrahydropyrrolo[3,4-c]pyrrole-1,3(2H,3aH)-dione
To a solution of 1-benzyl-3,3-difluoropyrrolidine-2,5-dione (325 mg, 1.44 mmol) in acetonitrile (3.6 mL), LiF (56 mg, 1.50 eq) and a stir bar were added. The reaction mixture was sonicated for 2.5 hr at rt. N-(Methoxymethyl)-N-(trimethylsilylmethyl)benzylamine (0.4 mL, 1.59 mmol, 1.10 eq) and LiF (37 mg, 1.44 mmol, 1 eq) were added and continued to sonicate for 0.5 hr. The reaction mixture was concentrated and the salt was removed by filtration. The crude residue was purified by column chromatography and eluted with 2 to 20% EtOAc/heptane and purified further with 2 to 10% EtOAc/heptane. The desired fractions were faintly ultraviolet active but were visualized with KMNO4 stain. The title compound was isolated as a yellow oil (196 mg, 40% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 7.10-7.43 (m, 10 H) 4.57-4.75 (m, 2 H) 3.63 (s, 2 H) 3.56-3.65 (m, 1 H) 3.33-3.41 (m, 1 H) 3.13 (d, J=9.29 Hz, 1 H) 2.74 (dd, J=9.35, 7.03 Hz, 1 H) 2.57-2.70 (m, 1 H). m/z (APCI+) for C20H20FN2O2 339.20 (M+H)+.

reactant | 1-benzyl-3,3-difluoropyrrolidine-2,5-dione | 1.44 mmol, 325 mg | C(C1=CC=CC=C1)N1C(C(CC1=O)(F)F)=O | C11H9F2NO2
reactant | LiF | 56 mg, 1.50 eq | [Li+].[F-]
reactant | N-(Methoxymethyl)-N-(trimethylsilylmethyl)benzylamine | 1.59 mmol, 0.4 mL, 1.10 eq | COCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C13H23NOSi
reactant | LiF | 1.44 mmol, 37 mg, 1 eq | [Li+].[F-]
solvent | acetonitrile | 3.6 mL | C(C)#N | C2H3N
product | (+/−)-cis-2,5-dibenzyl-3a-fluorotetrahydropyrrolo[3,4-c]pyrrole-1,3(2H,3aH)-dione | C(C1=CC=CC=C1)N1C([C@@H]2CN(C[C@@]2(C1=O)F)CC1=CC=CC=C1)=O | C20H19FN2O2
